US04927822
(a) Benzyl 5,6-dihydro-1-methyl-2-phenyl-4H-1,3,4-triazine-5-carboxylate
Benzenecarboximidic acid-N-methyl hydrazide monohydroiodide (0.43 g) in dry dimethylformamide (10 ml) and benzyl 2-bromo-prop-2-enoate (0.41 g) in benzene (2.5 ml) were cooled to 0° and stirred together under an atmosphere of nitrogen. A solution of 1,5-diazabicyclo[4.3.0]non-5-ene (0.4 ml) in dimethylformamide (5 ml) was added gradually and the mixture was stirred at 0° for a further 20 minutes. Ethyl acetate (100 ml) was added and the mixture was washed with brine (30 ml) and dried over magnesium sulphate. The solvent was removed at reduced pressure to yield the sub-title product (0.46 g) as an orange oil.

reactant | Benzenecarboximidic acid-N-methyl hydrazide monohydroiodide | 0.43 g | I.CN(N)C(=N)C1=CC=CC=C1
reactant | benzyl 2-bromo-prop-2-enoate | 0.41 g | BrC(C(=O)OCC1=CC=CC=C1)=C | C10H9BrO2
reactant | 1,5-diazabicyclo[4.3.0]non-5-ene | 0.4 ml | N12CCCN=C2CCC1 | C7H12N2
reactant | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | benzene | 2.5 ml | C1=CC=CC=C1 | C6H6
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | Benzyl 5,6-dihydro-1-methyl-2-phenyl-4H-1,3,4-triazine-5-carboxylate | 0.46 g | CN1C(=NNC(C1)C(=O)OCC1=CC=CC=C1)C1=CC=CC=C1 | C18H19N3O2
